US20010006969A1
2-Allylamino-4-diallylamino-7-methylthieno[3,2-d] pyrimidine hydrochloride
In a sealed tube were heated 335 mg (1.2 mmol) of 4-diallylamino-2-chloro-7-methylthieno[3,2-d]pyrimidine and 1.10 g (19.2 mmol) of allylamine at 140° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, and a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with ethyl acetate (50 ml×2). The organic layer was washed with brine and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-hexane=¼) to give 277 mg (yield: 77.0%) of a free base compound of the title compound.

reactant | 4-diallylamino-2-chloro-7-methylthieno[3,2-d]pyrimidine | 1.2 mmol, 335 mg | C(C=C)N(C=1C2=C(N=C(N1)Cl)C(=CS2)C)CC=C | C13H14ClN3S
reactant | allylamine | 19.2 mmol, 1.10 g | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-Allylamino-4-diallylamino-7-methylthieno[3,2-d] pyrimidine hydrochloride | Cl.C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)N(CC=C)CC=C | InChI=1S/C16H20N4S.ClH/c1-5-8-17-16-18-13-12(4)11-21-14(13)15(19-16)20(9-6-2)10-7-3;/h5-7,11H,1-3,8-10H2,4H3,(H,17,18,19);1H
